US07994316B2
Under a stream of argon, 2.1 ml of a hexane solution containing 3.3 mmol of butyl lithium was slowly added to 60 ml of tetrahydrofuran cooled to −78° C. in which 1.25 g of 2-(4-bromophenyl)-4,6-di-m-tolyl-1,3,5-triazine obtained in Reference Example 2 had been dissolved. After stirring at −78° C. for 15 minutes, 0.91 g of dichloro(tetramethylethylenediamine)zinc(II) was added thereto and stirred at −78° C. for 10 minutes and then at room temperature for 2 hours. A 20 ml portion of tetrahydrofuran prepared by dissolving 0.85 g of 6-bromo-2,2′-bipyridyl and 0.14 g of tetrakis(triphenylphosphine)palladium(0) therein was added to this solution and stirred under heating reflux for 14 hours. The reaction solution was concentrated under a reduced pressure and the thus obtained solid was recrystallized from dichloromethane-methanol. The thus obtained crude product was purified by a silica gel column chromatography (developing solvent hexane:chloroform=1:1 to 1:2) and then again recrystallized from dichloromethane-methanol to obtain a white solid of the intended 6-[4-(4,6-di-m-tolyl-1,3,5-triazin-2-yl)phenyl]-2,2′-bipyridyl (0.89 g, yield 61%). Its melting point is shown in Table 4. In this case, a distinct point of glass transition was not observed.

reactant | hexane | 2.1 ml | CCCCCC | C6H14
reactant | butyl lithium | 3.3 mmol | C(CCC)[Li]
reactant | 2-(4-bromophenyl)-4,6-di-m-tolyl-1,3,5-triazine | 1.25 g | BrC1=CC=C(C=C1)C1=NC(=NC(=N1)C=1C=C(C=CC1)C)C=1C=C(C=CC1)C | C23H18BrN3
reactant | 6-bromo-2,2′-bipyridyl | 0.85 g | BrC1=CC=CC(=N1)C1=NC=CC=C1 | C10H7BrN2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.14 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 6-[4-(4,6-di-m-tolyl-1,3,5-triazin-2-yl)phenyl]-2,2′-bipyridyl | 0.89 g, yield 61% | C1(=CC(=CC=C1)C1=NC(=NC(=N1)C=1C=C(C=CC1)C)C1=CC=C(C=C1)C1=CC=CC(=N1)C1=NC=CC=C1)C | C33H25N5
